US07521447B2
Step C: 5-Bromo4-(2,4-difluorophenoxy)-2-methylphenylamine:
1-Bromo-2-(2,4-difluoro-phenoxy)-4-methyl-5-nitro-benzene (87.0 g, 253 mmol) was dissolved in THF (300 mL) and diluted with MeOH (900 mL). Zinc dust (82.7 g, 1.26 mol) was added and 1 L of saturated NH4Cl was added slowly so that the reaction temperature never exceeded 42° C. The reaction was mechanically stirred vigorously for 16 hours. The reaction was filtered through Celite and the filter cake was washed with ethyl acetate. The filtrate was then concentrated with 1.2 L of saturated NH4OAc. When the THF/MeOH was removed, the solids were collected and washed with water. The solids were then stirred in 1 L water for 30 min, then collected via filtration and rinsed with water (1 L) in three portions. The resulting solid was dried under high vacuum for 48 hours to produce 64 g of the desired product (81%yield). MS (ESI+)m/z 314,316 (M+1, Br pattern) detected; 1H NMR (400 mHz, CDCl3) δ 6.92 (m, 1H), 6.91 (s, 1H), 6.75 (m, 2H), 6.70 (s, 1H), 3.57 (br. s, 2H), 2.08 (s, 3H).

reactant | 1-Bromo-2-(2,4-difluoro-phenoxy)-4-methyl-5-nitro-benzene | 253 mmol, 87.0 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)OC1=C(C=C(C=C1)F)F | C13H8BrF2NO3
reactant | NH4Cl | 1 L | [NH4+].[Cl-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | MeOH | 900 mL | CO | CH4O
catalyst | Zinc | 1.26 mol, 82.7 g | [Zn] | Zn
product | 5-Bromo4-(2,4-difluorophenoxy)-2-methylphenylamine | 64 g | BrC=1C(=CC(=C(C1)N)C)OC1=C(C=C(C=C1)F)F | C13H10BrF2NO
